US07714009B2
2-Morpholin-4-yl-7-nitro-1,3-benzothiazole
To 0.200 g (0.77 mmol) of 2-bromo-7-nitro-1,3-benzothiazole in 2 mL of DMF was added 0.21 g (1.5 mmol) of potassium carbonate and 81 μL (0.93 mmol) of morpholine. The mixture was stirred at room temperature for 72 h and diluted with water. The precipitate that formed was collected by filtration and purified by flash chromatography eluting with a 33% ethyl acetate/hexanes mixture to give 0.075 g (37%) of the title compound as a cream colored powder.

reactant | 2-bromo-7-nitro-1,3-benzothiazole | 0.77 mmol, 0.200 g | BrC=1SC2=C(N1)C=CC=C2[N+](=O)[O-] | C7H3BrN2O2S
reactant | potassium carbonate | 1.5 mmol, 0.21 g | C([O-])([O-])=O.[K+].[K+]
reactant | morpholine | 0.93 mmol, 81 μL | N1CCOCC1 | C4H9NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-Morpholin-4-yl-7-nitro-1,3-benzothiazole | 0.075 g, 37% | N1(CCOCC1)C=1SC2=C(N1)C=CC=C2[N+](=O)[O-] | C11H11N3O3S
